US05134231
Under nitrogen stream, 60 % sodium hydride (1.68 g; 42 mmole) was added to dry tetrahydrofuran (10 ml), and a solution of dimethyl 2-acetyl-3-benzylamino-2-pentenedioate (6.2 g; 20 mmole) in dry tetrahydrofuran (40 ml) was portionwise added thereto with ice-cooling, followed by stirring at the same temperature for 15 minutes. Methyl iodide (5.68 g; 40 mmole) was added thereto at room temperature, and the resultant mixture was stirred at room temperature for 1 hour and at 40° C. for 1 hour. Water was added to quench the reaction, and the reaction mixture was diluted with ethyl acetate. The organic layer was washed successively with water, dilute hydrochloric acid and an aqueous sodium chloride solution, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give dimethyl 2-acetyl-3-benzylamino-4-methyl-2-pentenedioate.

reactant | sodium hydride | 42 mmole, 1.68 g | [H-].[Na+]
reactant | dimethyl 2-acetyl-3-benzylamino-2-pentenedioate | 20 mmole, 6.2 g | C(C)(=O)C(C(=O)OC)=C(CC(=O)OC)NCC1=CC=CC=C1 | C16H19NO5
reactant | Methyl iodide | 40 mmole, 5.68 g | CI | CH3I
reactant | Water | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | dimethyl 2-acetyl-3-benzylamino-4-methyl-2-pentenedioate | C(C)(=O)C(C(=O)OC)=C(C(C(=O)OC)C)NCC1=CC=CC=C1 | C17H21NO5
